US04182757
3.0 g of D-ribose, 1.0 g of methylamine and 2.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 1-(1). 4.0 g of 1-(2-chloroethyl)-3-methyl-3-D-ribofuranosylurea are thereby obtained as colorless caramel.

reactant | D-ribose | 3.0 g | O=C[C@H](O)[C@H](O)[C@H](O)CO | C5H10O5
reactant | methylamine | 1.0 g | CN | CH5N
reactant | 2-chloroethyl isocyanate | 2.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-methyl-3-D-ribofuranosylurea | 4.0 g | ClCCNC(=O)N(C1[C@H](O)[C@H](O)[C@H](O1)CO)C | C9H17ClN2O5
